US08530663B2
NaBH4 (0.6 g, 15.8 mmol, 5 eq.) was added to a solution of 3′,4′,5′,6′-tetrahydro-2′H-[2,4′]bipyridinyl-3,1′-dicarboxylic acid 1′-t-butyl ester 3-methyl ester (1.0 g, 3.1 mmol, 1.0 eq.) in THF (40 mL), under nitrogen. This mixture was cooled to 0-5° C. and MeOH (8 mL) was added dropwise. The resulting solution was stirred for 2.5 hours at room temperature. The solution was diluted with EtOAc (50 mL), then washed with saturated NH4Cl (1×100 mL) and saturated aqueous NaCl (2×100 mL). The organic layer was dried over anhydrous Na2SO4 and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with EtOAc/PE (1:5) to yield 3-hydroxymethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,4]-bipyridinyl-1′-carboxylic acid t-butyl ester (0.4 g) as a white solid. MS m/z: [M+H]+ calcd for C16H25N2O3, 293. found 293.

reactant | NaBH4 | 15.8 mmol, 0.6 g, 5 eq. | [BH4-].[Na+]
reactant | 3′,4′,5′,6′-tetrahydro-2′H-[2,4′]bipyridinyl-3,1′-dicarboxylic acid 1′-t-butyl ester 3-methyl ester | 3.1 mmol, 1.0 g, 1.0 eq. | COC(=O)C=1C(=NC=CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C17H24N2O4
reactant | MeOH | 8 mL | CO | CH4O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 3-hydroxymethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,4]-bipyridinyl-1′-carboxylic acid t-butyl ester | 0.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=CC=C1CO | C16H24N2O3
